US07335648B2
3-[6-(6-Chloro-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxol-4-ylmethoxy]-isoxazole-5-carboxylic acid methyl ester
To a solution of [6-(6-Chloro-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl]-methanol (0.570 g, 1.74 mmol) in 16 mL of dry dichloromethane was added polymer-bound triphenylphosphine (PS-TPP; Argonaut Tech., 2.14 mmol/g, 0.91 g, 1.2 eq), followed by methyl-3-hydroxy-5-isoxazolecarboxylate (0.248 g, 1 eq). The mixture was sonicated for 15 minutes then stirred at room temperature for 1 h under argon. The reaction mixture was cooled to 0° C. and under argon flow diethylazodicarboxylate (0.33 g, 1.1 eq), dissolved in 1 ml of dichloromethane, was added dropwise via syringe. The mixture was protected from light and stirred at 0° C. for 30 min. then at room temperature for 20 h. The resin was washed liberally with dichloromethane and methanol. The organic solution obtained from the washes was concentrated to give, after flash chromatography purification, 0.740 g of the product as a white solid (95% yield). 1H NMR (300 MHz, CDCl3) δ 8.76 (s, 1H), 8.23 (s, 1H), 6.42 (s, 1H), 6.23 (d, J=2.1 Hz, 1H), 5.43 (dd, J=2.1 Hz, 1H), 5.14 (dd, J=3.6 Hz, 1H), 4.7 (m, 1H), 4.61 (dd, J=3.9 Hz, 1H), 4.49 (dd, J=5.7 Hz, 1H), 3.93 (s, 3H), 1.65 (s, 3H), 1.42 (s, 3H). MW calculated for C18H18ClN5O7 (MH+) 452, found 452 by LCMS.

reactant | [6-(6-Chloro-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl]-methanol | 1.74 mmol, 0.570 g | ClC1=C2N=CN(C2=NC=N1)C1OC(C2C1OC(O2)(C)C)CO | C13H15ClN4O4
reactant | triphenylphosphine | 0.91 g, 1.2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl-3-hydroxy-5-isoxazolecarboxylate | 0.248 g, 1 eq | COC(=O)C1=CC(=NO1)O | C5H5NO4
reactant | diethylazodicarboxylate | 0.33 g, 1.1 eq | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | dichloromethane | 16 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 3-[6-(6-Chloro-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxol-4-ylmethoxy]-isoxazole-5-carboxylic acid methyl ester | 0.740 g, 95% yield | COC(=O)C1=CC(=NO1)OCC1OC(C2OC(OC21)(C)C)N2C1=NC=NC(=C1N=C2)Cl | C18H18ClN5O7
